US04200641
A mixture of 10.7 parts of 1-{3-[4-(diphenylmethyl)piperazinyl]propyl}-1H-benzimidazol-2-amine, 5.1 parts of acetic acid anhydride and 90 parts of methylbenzene is stirred and refluxed for 5 hours. The reaction mixture is evaporated and the residue is stirred in water. The whole is alkalized with ammonium hydroxide and the product is extracted with trichloromethane. The extract is dried, filtered and evaporated. The residue is crystallized from ethanol. The product is filtered off and dried, yielding N-[1-{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-1,3-dihydro-2H-benzimidazol-2-ylidene]acetamide; mp. 143.3° C.

reactant | 1-{3-[4-(diphenylmethyl)piperazinyl]propyl}-1H-benzimidazol-2-amine | C1(=CC=CC=C1)C(N1CCN(CC1)CCCN1C(=NC2=C1C=CC=C2)N)C2=CC=CC=C2 | C27H31N5
reactant | acetic acid anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylbenzene | CC1=CC=CC=C1 | C7H8
product | N-[1-{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-1,3-dihydro-2H-benzimidazol-2-ylidene]acetamide | C1(=CC=CC=C1)C(N1CCN(CC1)CCCN1C(NC2=C1C=CC=C2)=NC(C)=O)C2=CC=CC=C2 | C29H33N5O
